US07452999B2
A ˜1:1 mixture of (E) and (Z)-2-[[(phenylmethoxy)amino]methyl]-2-hexenoic acid methyl ester (3.95 g, 15 mmol), bis(norbornadiene)rhodium(I)tetrafluoroborate (56.1 mg, 0.15 mmol) and (1S,1′S,2R,2′R)-TangPhos (47.3 mg, 0.165 mmol) in de-oxygenated methanol (90 mL) in a Parr bottle is hydrogenated under H2 (45-55 psi) at RT for 24 hours. The reaction mixture is concentrated on Rotavap under reduced pressure (20 mbar) until no further solvent distills. The residue liquid is dissolved in a mixture of ethyl acetate/heptane (50/50, 10 mL) and filtered through a silica gel pad (˜12 g). The silica gel pad is rinsed with a mixture of ethyl acetate/heptane (50/50, 200 mL). The filtrates are combined and concentrated on Rotavap under reduced pressure (20 mbar) until no further solvent distills to afford 2-[[(phenylmethoxy)amino]methyl]-(2S)-hexanoic acid methyl ester (3.76 g, yield: 94%, S:R=98.0:2.0) as a liquid.

reactant | (Z)-2-[[(phenylmethoxy)amino]methyl]-2-hexenoic acid methyl ester | 15 mmol, 3.95 g | COC(\C(=C/CCC)\CNOCC1=CC=CC=C1)=O | C15H21NO3
catalyst | bis(norbornadiene)rhodium(I)tetrafluoroborate | 0.15 mmol, 56.1 mg | [B-](F)(F)(F)F.C1C2C=CC1C=C2.C1C2C=CC1C=C2.[Rh]
product | 2-[[(phenylmethoxy)amino]methyl]-(2S)-hexanoic acid methyl ester | 3.76 g, yield: 94% | COC([C@@H](CCCC)CNOCC1=CC=CC=C1)=O | C15H23NO3
